US06855722B2
e) 3-[5-(2-5,6,7,8-Tetrahydro-[1,8]naphthyridin-2-yl-acetylamino)-indol-1-yl]-hexanoic acid
To a solution of 3-[5-(2-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl-acetylamino)-indol-1-yl]-hexanoic acid ethyl ester (50 mg, 0.12 mmol) in THF (1.0 mL) was added a solution of NaOH (18 mg, 0.45 mmol) in H2O (0.15 mL), and stirred at ambient temperature for 14 h. Solvents were evaporated. To the resulting residue was added 1N HCl until the solution reached a pH of 5. The mixture was extracted with EtOAc/DCM (9:1) several times until the aqueous layer was free from product by TLC. The extracts were combined, dried over Na2SO4, concentrated, and flash chromatographed on silica gel, eluting with MeOH/DCM (2.5, 5, and 7.5%) to afford the title compound (38 mg, 81% yield) as a pale brown solid. 1H NMR (CDCl3) δ 7.79 (d, 1H, J=1.9 Hz), 7.57 (d, 1H, J=7.3 Hz), 7.45 (d, 1H, J=8.9 Hz,), 7.34 (d, 1H, J=3.2 Hz), 7.23 (dd, 1H, J=2.0, 8.8 Hz), 6.69 (d, 1H, J=7.3 Hz), 6.46 (d, 1H, J=3.2 Hz), 3.83 (s, 0.9H), 3.81 (s, 0.5H), 3.49 (t, 2H, J=5.6 Hz), 2.89 (d, 2H, J=7.2 Hz), 2.83 (t, 2H, J=6.1 Hz), 2.67-1.86 (m, 4H), 1.19-0.99 (m, 2H), 0.86 (t, 3H, J=7.3 Hz). Mass spectrum (LCMS, ESI) calculated for C24H29N4O3 421.2 (M+H); found 421.3.

reactant | 3-[5-(2-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl-acetylamino)-indol-1-yl]-hexanoic acid ethyl ester | 0.12 mmol, 50 mg | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)NC(CC1=NC=2NCCCC2C=C1)=O)=O | C26H32N4O3
reactant | NaOH | 0.45 mmol, 18 mg | [OH-].[Na+]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.15 mL | O | H2O
product | 3-[5-(2-5,6,7,8-Tetrahydro-[1,8]naphthyridin-2-yl-acetylamino)-indol-1-yl]-hexanoic acid | 38 mg, 81% yield | N1=C(C=CC=2CCCNC12)CC(=O)NC=1C=C2C=CN(C2=CC1)C(CC(=O)O)CCC | C24H28N4O3
